US04897490
A. 5,5-Bis(4-fluorophenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal
A mixture of 448 g (1.37 mol) of 3,3-bis(4-flurophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal and 445 g (1.46 mol) of triphenylphosphoranylidene acetaldehyde in 5.5 L of toluene was heated with stirring to 55° C. After turning off the heat source, the temperature rose to 62° C. After 20 minutes, heat was applied and 60° C. was maintained for 30 minutes. Analytical TLC indicated that the reaction was complete (50% ethyl acetate in hexane). Lithium bromide (128 g, 1.47 mol) was added and the mixture was stirred at 60° C. for 1 hour. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in 900 mL of boiling absolute ethanol. To this solution was slowly added 900 mL of hexane. After 16 hours at ambient temperature and 2 hours at cold freezer temperature, the mixture was filtered to give 418 g (86.6%) of the title compound; m.p.=161°-165° C.

reactant | 3,3-bis(4-flurophenyl)-2-(1-methyl-1H-tetrazol-5-yl)-2-propenal | 1.37 mol, 448 g | FC1=CC=C(C=C1)C(=C(C=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C17H12F2N4O
reactant | triphenylphosphoranylidene acetaldehyde | 1.46 mol, 445 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | Lithium bromide | 1.47 mol, 128 g | [Br-].[Li+]
solvent | toluene | 5.5 L | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5,5-Bis(4-fluorophenyl)-4-(1-methyl-1H-tetrazol-5-yl)-2,4-pentadienal | 418 g, 86.6% | FC1=CC=C(C=C1)C(=C(C=CC=O)C1=NN=NN1C)C1=CC=C(C=C1)F | C19H14F2N4O
